US08486970B2
To a solution of 644 mg of (3RS,4RS)—N-[(4-tert-butoxybenzyl)oxy]-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide in 8.4 ml of dichloromethane was added 0.94 ml of trifluoroacetic acid under ice-cooling, followed by stirring at room temperature for 1 hour. The solution was concentrated under reduced pressure and then recrystallized from ethyl acetate to obtain 363 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-N-hydroxy-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a colorless crystal.

reactant | (3RS,4RS)—N-[(4-tert-butoxybenzyl)oxy]-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 644 mg | C(C)(C)(C)OC1=CC=C(CONC(=O)C2C(N(C(C3=CC=CC=C23)=O)C2C(CCCC2)NS(=O)(=O)C)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C34H39Cl2N3O6S
reactant | trifluoroacetic acid | 0.94 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8.4 ml | ClCCl | CH2Cl2
product | (3RS,4RS)-3-(2,4-dichlorophenyl)-N-hydroxy-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 363 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NO)=O)C1C(CCCC1)NS(=O)(=O)C | C23H25Cl2N3O5S
